US05256666
158 g of vanadium trichloride are dissolved in 800 ml of dichloromethane, and 500 ml of a solution of 1 mol of 2-methyl-3-chlorophenylmagnesium chloride in THF are added at 25° C. Stirring is carried out for 0.5 hour, after which 121 g of allyl bromide are added dropwise, stirring is effected for 10 hours at 25° C. and the mixture is then refluxed for 6 hours. The resulting reaction mixture is poured into 2 l of saturated, aqueous sodium bicarbonate solution and then extracted with methyl tertbutyl ether. 70.9 g of 1-chloro-2-methyl-3-prop-2-enylbenzene (bp. 78° C./1 mbar) are obtained by distillation.

reactant | 2-methyl-3-chlorophenylmagnesium chloride | 1 mol | CC1=C(C=CC=C1Cl)[Mg]Cl
reactant | allyl bromide | 121 g | C(C=C)Br | C3H5Br
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 800 ml | ClCCl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
catalyst | vanadium trichloride | 158 g | [Cl-].[Cl-].[Cl-].[V+3]
product | 1-chloro-2-methyl-3-prop-2-enylbenzene | 70.9 g | ClC1=C(C(=CC=C1)CC=C)C | C10H11Cl
